US07479502B2
Proceeding as in Reference 15, but substituting 3-bromo-4-(2-methoxyethoxymethoxy)benzylamine (2.40 g, 8.27 mmol) and di-tert-butyl dicarbonate (3.56 g, 16.3 mmol), gave tert-butyl [3-bromo4-(2-methoxyethoxymethoxy)-benzyl]carbamate (2.36 g).

reactant | 3-bromo-4-(2-methoxyethoxymethoxy)benzylamine | 8.27 mmol, 2.40 g | BrC=1C=C(CN)C=CC1OCOCCOC | C11H16BrNO3
reactant | di-tert-butyl dicarbonate | 16.3 mmol, 3.56 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | tert-butyl [3-bromo4-(2-methoxyethoxymethoxy)-benzyl]carbamate | 2.36 g | BrC=1C=C(CNC(OC(C)(C)C)=O)C=CC1OCOCCOC | C16H24BrNO5
